US07276516B2
4-(4-Fluoro-3-methoxy-benzylcarbamoyl)-benzenesulfonyl chloride
Dissolve 4-chlorosulfonyl-benzoyl chloride (3.18 g, 13.3 mmol) in THF (25 mL) and cool to −78° C. Slowly add a pre-mixed solution of 4-fluoro-3-methoxybenzyl-amine (1.91 g, 12.3 mmol), Et3N (1.64 mL, 11.8 mmol), and DMAP (150 mg, 1.23 mmol) in THF (25 mL) to the above cooled solution over 1 h. Stir the resulting mixture at −78° C. for 1 h, then warm to RT and stir for 4 h. Remove all solids by filtration and wash with THF (5 mL). Concentrate the filtrate and re-dissolve the crude material in EtOAc (30 mL) and wash with 1N HCl (30 mL). Separate the organic and aqueous layers and extract the aqueous phase with additional EtOAc (30 mL). Combine the organic solutions dry, filter, and concentrate. Purify the crude material by flash chromatography, using a linear gradient of 100% hexanes to 40% EtOAc/hexanes) to give the title compound as a white solid (1.36 g, 28%). MS (ES−) 356.1 (M−1)−. 1H NMR (400 MHz, CDCl3): δ 8.11 (d, 2H, J=8.3), 8.00 (d, 2H, J=8.8), 7.05 (dd, 1H, J=8.2, 11.1), 6.96 (dd, 1H, J=1.9, 8.0), 6.86 (m, 1H), 6.44 (br s, 1H), 4.61 (d, 2H, J=5.7), 3.88 (s, 3H).

reactant | 4-chlorosulfonyl-benzoyl chloride | 13.3 mmol, 3.18 g | ClS(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O3S
reactant | 4-fluoro-3-methoxybenzyl-amine | 12.3 mmol, 1.91 g | FC1=C(C=C(CN)C=C1)OC | C8H10FNO
reactant | Et3N | 11.8 mmol, 1.64 mL | CCN(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 1.23 mmol, 150 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 4-(4-Fluoro-3-methoxy-benzylcarbamoyl)-benzenesulfonyl chloride | 1.36 g, 28% | FC1=C(C=C(CNC(=O)C2=CC=C(C=C2)S(=O)(=O)Cl)C=C1)OC | C15H13ClFNO4S
